US05952386
A reaction vessel was charged with 2.02 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 1.56 g of ethyl 3-bromobutyrate, 1.11 g of potassium carbonate and 20 ml of N,N-dimethylformamide. After stirring at room temperature for 12 hours, the reaction mixture was poured into water and extracted twice with 50 ml of diethyl ether. The ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 2.54 g of ethyl 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxybutyrate (90% yield).

reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 2.02 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | ethyl 3-bromobutyrate | 1.56 g | BrC(CC(=O)OCC)C | C6H11BrO2
reactant | potassium carbonate | 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxybutyrate | 2.54 g, 90% yield | ClC1=C(OC(C(=O)OCC)CC)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C15H16Cl4O4
